US06103910
(R)-1-[6-[(R)-2-Carboxy-pyrrolidin-1-yl)-2,5-dimethyl-6-oxo-hexanoyl]-pyrrolidine-2-carboxylic acid (mixture of 3 diastereomers)
A solution of 593 mg (1.09 mmol) (2E,4E)-(R)-1-[6-[(R)-2-benzyloxycarbonyl-pyrrolidin-1-yl]-2,5-dimethyl-6-oxo-hexa-2,4-dienoyl]-pyrrolidine-2-carboxylic acid benzyl ester in 15 ml dioxane was stirred with 25 mg (0.11 mmol) platinum (IV) oxide under 1 atm of hydrogen for 72 h at room temperature. After filtration to remove the catalyst, the reaction mixture was concentrated in vacuo and azeotroped three times with chloroform on a rotary evaporator to remove last traces of dioxane, then triturated in ether to afford 400 mg (100%) of the title compound as a white foam.

reactant | (2E,4E)-(R)-1-[6-[(R)-2-benzyloxycarbonyl-pyrrolidin-1-yl]-2,5-dimethyl-6-oxo-hexa-2,4-dienoyl]-pyrrolidine-2-carboxylic acid benzyl ester | 1.09 mmol, 593 mg | C(C1=CC=CC=C1)OC(=O)[C@@H]1N(CCC1)C(\C(=C\C=C(\C(=O)N1[C@H](CCC1)C(=O)OCC1=CC=CC=C1)/C)\C)=O | C32H36N2O6
reactant | hydrogen | [H][H] | H2
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
catalyst | platinum (IV) oxide | 0.11 mmol, 25 mg | [Pt](=O)=O
product | (R)-1-[6-[(R)-2-Carboxy-pyrrolidin-1-yl)-2,5-dimethyl-6-oxo-hexanoyl]-pyrrolidine-2-carboxylic acid | 400 mg, 100% | C(=O)(O)[C@@H]1N(CCC1)C(C(CCC(C(=O)N1[C@H](CCC1)C(=O)O)C)C)=O | C18H28N2O6
